US05380736
2-[(2-Indolyl)carbonylamino]-4-(2,4-dimethoxyphenyl)-5-carboxymethylthiazol
0.5 g of 2-[(1-acetyl-2-indolyl)carbonylamino]-4-(2,4-dimethoxyphenyl)-5-ethoxycarbonylmethylthiazole, prepared above according to Example 10, is dissolved in 10 ml of 95° ethanol and then 1.5 ml of 2N NaOH are added. The reaction mixture is stirred,overnight at room temperature and then concentrated under vacuum. The residue is taken up in a buffer solution, pH=2, a precipitate is separated by filtration, washed with water, filtered and then rinsed with ether.

reactant | 2-[(1-acetyl-2-indolyl)carbonylamino]-4-(2,4-dimethoxyphenyl)-5-ethoxycarbonylmethylthiazole | 0.5 g | C(C)(=O)N1C(=CC2=CC=CC=C12)C(=O)NC=1SC(=C(N1)C1=C(C=C(C=C1)OC)OC)CC(=O)OCC | C26H25N3O6S
reactant | NaOH | 2N, 1.5 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-[(2-Indolyl)carbonylamino]-4-(2,4-dimethoxyphenyl)-5-carboxymethylthiazol | N1C(=CC2=CC=CC=C12)C(=O)NC=1SC(=C(N1)C1=C(C=C(C=C1)OC)OC)CC(=O)O | C22H19N3O5S
